US06656947B2
2,3-Dihydro[1,4]dioxino[2,3-f]quinazolin-2-ylmethyl-4-methylbenzenesulfonate
Toluene-4-sulfonic acid (2R)-7-amino-8-(hydroximino-methyl)-2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl ester (3.0 g, 7.9 mmole) was suspended in triethyl orthoformate under nitrogen, brought to a rapid boil and refluxed for 18 hours. The reaction mixture was cooled and the solvent evaporated. The residue was dissolved in methylene chloride (100 mL) and the solution obtained was washed with saturated sodium chloride (100 mL), dried over magnesium sulfate and evaporated to a brown gum (2.7 g) which contained several impurities. Chromatography on silica gel using 1% methanol in chloroform and then 3% methanol in chloroform as eluants gave 0.9 g (30%) of the (R)-enantiomer of the title compound as an oil. 1H(DMSO-d6) singlet, 9.01 δ(1 H); singlet, 9.19 δ(1 H); doublet, 7.75 δ(2 H); doublet, 7.60 δ(1 H); doublet, 7.50 δ(1 H) doublet, 7.30 δ(2 H); multiplet, 4.75 δ(1 H); double doublet, 4.51 δ(1 H); double doublet, 4.46 δ(1 H) double doublet: 4.32 δ(1 H); double doublet, 4.22 δ(1 H); singlet, 2.32 δ(3 H).

reactant | Toluene-4-sulfonic acid (2R)-7-amino-8-(hydroximino-methyl)-2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl ester | 7.9 mmole, 3.0 g | NC=1C=CC2=C(O[C@H](CO2)COS(=O)(=O)C2=CC=C(C=C2)C)C1C=NO | C17H18N2O6S
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
product | 2,3-Dihydro[1,4]dioxino[2,3-f]quinazolin-2-ylmethyl-4-methylbenzenesulfonate | O1C(COC=2C1=C1C=NC=NC1=CC2)COS(=O)(=O)C2=CC=C(C=C2)C | C18H16N2O5S
